US06949542B2
(4,5-Dichloro-2-nitro-phenyl)-carbamic acid tert-butyl ester
The title compound was prepared via the di-Boc compound from commercially available 4,5-dichloro-2-nitroaniline [CAS-No. 6641-64-1] (41.5 g, 200 mmol) and Boc2O (89.7 g, 411 mmol), followed by treatment with 2 eq. TFA in CH2Cl2 according to the general procedure A (method c). Obtained by column chromatography (toluene/ethylacetate 19:1) as a pale brown solid (58.9 g, 96%).

reactant | 4,5-dichloro-2-nitroaniline | 200 mmol, 41.5 g | ClC1=CC(=C(N)C=C1Cl)[N+](=O)[O-] | C6H4Cl2N2O2
reactant | Boc2O | 411 mmol, 89.7 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | toluene ethylacetate | C1(=CC=CC=C1)C.C(C)OC(C)=O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (4,5-Dichloro-2-nitro-phenyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)Cl)Cl)[N+](=O)[O-])=O | C11H12Cl2N2O4
